US06093730
a) Methyl 1-chloro-4-hydroxyisoquinoline-3-carboxylate
2.84 g (13 mmol) of methyl 4-hydroxy-1 (2H)-isoquinolone-3-carboxylate (prepared as in M. Suzuki, SYNTHESIS, 461 (1978)) was stirred at 70° C. for 3 h in 25 ml of phosphorus oxychloride. After cooling, the mixture was added to 500 ml of ice water, the precipitate was filtered off with suction next morning and dried at 70° C. under an IR Lamp. 2.96 g of product were obtained; m.p. 168° C.

reactant | methyl 4-hydroxy-1 (2H)-isoquinolone-3-carboxylate | 13 mmol, 2.84 g | OC1=C(NC(C2=CC=CC=C12)=O)C(=O)OC | C11H9NO4
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 1-chloro-4-hydroxyisoquinoline-3-carboxylate | 2.96 g | ClC1=NC(=C(C2=CC=CC=C12)O)C(=O)OC | C11H8ClNO3
